US06822109B2
Preparation of 9,9-bis(triethylsilyloxymethyl)fluorene
1 g of 9,9-bis(hydroxymethyl)fluorene (4.4 mmol) was admixed with 20 ml of dichloromethane. The mixture was cooled in ice-water bath, and 1.9 ml of triethyl amine (13.3 mmol) was added thereto. Then 1.85 ml of triethylsilyl chloride (11.1 mmmol) was added drop-wise, and the mixture was stirred in ice-water bath for further 2 hours. The reaction mixture was washed with water, and the organic layer separated was dried over anhydrous sodium sulfate. After filtration, the filtrate was evaporated to give 1.75 g of concentrate (yield 87.1%).

reactant | 9,9-bis(hydroxymethyl)fluorene | 4.4 mmol, 1 g | OCC1(C2=CC=CC=C2C=2C=CC=CC12)CO | C15H14O2
reactant | triethyl amine | 13.3 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | triethylsilyl chloride | 1.85 ml | C(C)[Si](CC)(CC)Cl | C6H15ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 9,9-bis(triethylsilyloxymethyl)fluorene | yield 87.1% | C(C)[Si](OCC1(C2=CC=CC=C2C=2C=CC=CC12)CO[Si](CC)(CC)CC)(CC)CC | C27H42O2Si2
